US07858632B2
To a solution of 2-[4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-3,4,4-trimethyl-4,5-dihydro-oxazolium iodide (5.132 g, 10.4 mmol) in 52 mL methanol was added 4 M NaOH (5.2 mL, 20.7 mmol). The solution was warmed to reflux. After 16 hours the solution was cooled to 0° C. and acidified to pH=1 with concentrated HCl. The mixture was extracted with ethyl acetate, washed with H2O and washed with brine. The combined organics were dried over Na2SO4, filtered and concentrated in vacuo to give a crude acid (3.228 g). A portion of this acid (2.919 g, 9.73 mmol) was dissolved in a mixture of 70 mL benzene and 20 mL MeOH. Trimethylsilyldiazomethane (6.3 mL, 2.0 M in hexanes) was added drop-wise. After 30 minutes the solution was concentrated in vacuo to give 4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-benzoic acid methyl ester as an oil (2.886 g).

reactant | 2-[4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-3,4,4-trimethyl-4,5-dihydro-oxazolium iodide | 10.4 mmol, 5.132 g | [I-].COC1=CC(=C(C=C1OC)C=1OCC([N+]1C)(C)C)C(CC1=CC=CC=C1)C
reactant | NaOH | 20.7 mmol, 4 M, 5.2 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | Trimethylsilyldiazomethane | 2.0 M, 6.3 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 52 mL | CO | CH4O
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
solvent | MeOH | 20 mL | CO | CH4O
product | 4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-benzoic acid methyl ester | 2.886 g | COC(C1=C(C=C(C(=C1)OC)OC)C(CC1=CC=CC=C1)C)=O | C19H22O4
